US08563735B2
(R)-tert-butyl 3-(2-nitro-4-sulfamoylphenylamino)pyrrolidine-1-carboxylate
To a solution of (R)-tert-butyl 3-aminopyrrolidine-1-carboxylate (1.0 g), tetrahydrofuran (50 ml), N-ethyl-N-isopropylpropan-2-amine (5.61 mL) and N,N-dimethylformamide (10 mL) was added 4-fluoro-3-nitrobenzenesulfonamide (1.212 g) and the mixture was stirred for 18 hours. The crude product was isolated by concentration and was the material was purified on silica gel, and was eluted with a 30, 50, and 75% ethyl acetate in hexane step gradient to provide the title compound.

reactant | (R)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 1.0 g | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | N-ethyl-N-isopropylpropan-2-amine | 5.61 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 1.212 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (R)-tert-butyl 3-(2-nitro-4-sulfamoylphenylamino)pyrrolidine-1-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)S(N)(=O)=O)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H22N4O6S
